US04698340
To a solution of tetrahydrofuran (25 ml), methylmercaptan-diemthylformamide solution (methylmercaptan 66 g/DMF 306 g) (5 ml) and ethyl 4-(2-chloro-5-nitrophenyl)-6-methyl-2-phenyl-5-pyrimidinecarboxylate (2 g), sodium methylmercaptan (0.42 g) was added, stirred for 3 h at ambient temperature. The reaction mixture was evaporated in vacuo and the residue was dissolved in a mixture of water (50 ml) and ethyl acetate (100 ml). The organic layer was washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. The solvent was distilled off. The residue was chromatographed on silica gel, eluting with a mixture of n-hexane and ethyl acetate (10:1). The fractions containing the object compound were combined and concentrated in vacuo. The crystalline residue was recrystallized from diethyl ether to afford ethyl 6-methyl-4-(2-methylthio-5-nitrophenyl)-2-phenyl-5-pyrimidinecarboxylate (0.4 g).

reactant | ethyl 4-(2-chloro-5-nitrophenyl)-6-methyl-2-phenyl-5-pyrimidinecarboxylate | 2 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])C1=NC(=NC(=C1C(=O)OCC)C)C1=CC=CC=C1 | C20H16ClN3O4
reactant | sodium methylmercaptan | 0.42 g | CS.[Na]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | ethyl 6-methyl-4-(2-methylthio-5-nitrophenyl)-2-phenyl-5-pyrimidinecarboxylate | 0.4 g | CC1=C(C(=NC(=N1)C1=CC=CC=C1)C1=C(C=CC(=C1)[N+](=O)[O-])SC)C(=O)OCC | C21H19N3O4S
